2158-03-22 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - admitted to MICU [**Location (un) 257**] due to transient SBP drop to 90's and HCT
   drop from 40->30.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2158-3-22**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-22**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (96.9
   HR: 64 (59 - 68) bpm
   BP: 98/64(73) {98/50(64) - 138/72(86)} mmHg
   RR: 12 (9 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
           457 mL
   PO:
           TF:
   IVF:
   50 mL
   Blood products:
   407 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    457 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///20/
   General: Pleasant, well appearing man in NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple
   Cardiac: Regular rhythm, normal rate. Normal S1, S2. Systolic murmur at
   LUSB and at apex, no rubs or [**Last Name (un) 4808**].
   Lungs: CTAB, good air movement biaterally.
   Abdomen: NABS. Soft, mild tender diffusely. No HSM, no rebound, no
   guarding.
   Extremities: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   Skin: No rashes/lesions, ecchymoses.
   Neurologic: A&Ox3. Appropriate. CN 2-12 grossly intact. 5/5 strength
   throughout. [**12-16**]+ reflexes, equal BL. Normal coordination. Gait
   assessment deferred
   Psych: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   364 K/uL
   10.7 g/dL
   129 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.8 mEq/L
   20 mg/dL
   107 mEq/L
   135 mEq/L
   30.0 %
   7.9 K/uL
        [image002.jpg]
                             [**2158-3-22**]  03:44 AM
   WBC
   7.9
   Hct
   30.0
   Plt
   364
   Cr
   0.9
   Glucose
   129
   Other labs: PT / PTT / INR:13.6/25.2/1.2
   Impression:  Mr. [**Known lastname 1277**] is a 57 y/o male with a history a mitral valve
   fibroelastoma and recent screening colonoscopy on [**2158-3-7**] with
   polypectomy who presents with bright red blood per rectum x 1 day and
   hypotension.
   .
   Gastrointestinal Bleeding:  Story consistent with a lower gastroinestal
   source.  Differential includes diverticular bleed vs. post-polypectomy
   vs. AVM vs. other source.  Most likely etiology related to
   post-polypectomy bleed.  Transferred to MICU with cont GI bleed and
   transient hypotensive episode to 90
s.  Since ICU transfer HD stable
   but with continued blood stool.  Given 2u PRBC on ICU transfer.
   - GI consult
 colonoscopy performed, noted to have pulsatile bleeding
   lesion from biopsy site.  Clipped with good hemostasis.
   - cont NPO
   - holding antihypertensive agents
   - if has rebleed or unable to control bleeding with IR, will consider
   pursuing red cell scan vs. IR angio and embolization.
   .
   Hypotension:  Likely from acute blood loss.  Drop from baseline of 40
   to 30.4.  Stable since ICU transfer and infusion.
   - post-transfusion HCT
   - 2 more units PRBC per GI recs
   - transfusion goal otherwise > 30
   - IVFs as needed for MAPs > 65, UOP > 30 cc/hr
   .
   Hypercholesterolemia:
   - continue statin
   .
   History of TIAs:
   - holding aspirin and plavix
   .
   Tobacco Use:
   - counseling
   - nicotine patch
   .
   FEN: NPO after midnight, otherwise clears, IVFs as needed for MAPs >
   65, UOP > 30 cc/hr, monitor electrolytes
   Prophylaxis: PPI, no heparin SQ, pneumoboots
   Access: Peripherals
   Code Status: Full Code
   Emergency Contact: Wife [**Name (NI) 1534**] [**Name (NI) 1277**] Phone: [**Telephone/Fax (1) 5619**]
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2158-3-22**] 03:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2158-03-23 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - GI [**Last Name (un) **] sig for post-polypectomy bleed at 60 cm in distal transverse
   - active pulsatile blood flow -> clipped and injected epi
   - HCT with drop 30->24 in PM, no e/o bleeding, given 2u PRBC
   - hemodynamically stable throughout day
 COLONOSCOPY - At [**2158-3-22**] 10:30 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2158-3-22**] 10:55 AM
   Midazolam (Versed) - [**2158-3-22**] 10:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-23**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 50 (50 - 107) bpm
   BP: 116/66(79) {86/44(61) - 187/81(104)} mmHg
   RR: 11 (9 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
           Total In:
                                                                  2,035 mL
                                                                    106 mL
   PO:
           TF:
   IVF:
                                                                    100 mL
                                                                     72 mL
   Blood products:
                                                                  1,935 mL
                                                                     34 mL
   Total out:
                                                                    375 mL
                                                                    300 mL
   Urine:
                                                                    375 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,660 mL
                                                                   -194 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General: Pleasant, well appearing man in NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple
   Cardiac: Regular rhythm, normal rate. Normal S1, S2. Systolic murmur at
   LUSB and at apex, no rubs or [**Last Name (un) 4808**].
   Lungs: CTAB, good air movement biaterally.
   Abdomen: NABS. Soft, mild tender diffusely. No HSM, no rebound, no
   guarding.
   Extremities: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   Skin: No rashes/lesions, ecchymoses.
   Neurologic: A&Ox3. Appropriate. CN 2-12 grossly intact. 5/5 strength
   throughout. [**12-16**]+ reflexes, equal BL. Normal coordination. Gait
   assessment deferred
   Psych: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   216 K/uL
   14.4 g/dL
   94 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.3 mEq/L
   14 mg/dL
   108 mEq/L
   137 mEq/L
   38.7 %
   9.6 K/uL
        [image002.jpg]
                             [**2158-3-22**]  03:44 AM
                             [**2158-3-22**]  04:56 PM
                             [**2158-3-23**]  02:25 AM
   WBC
   7.9
   9.6
   Hct
   30.0
   24.3
   38.7
   Plt
   364
   216
   Cr
   0.9
   0.8
   Glucose
   129
   94
   Other labs: PT / PTT / INR:12.9/27.7/1.1, Ca++:7.9 mg/dL, Mg++:2.1
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1277**] is a 57 y/o male with a history a mitral valve fibroelastoma
   and recent screening colonoscopy on [**2158-3-7**] with polypectomy who
   presents with bright red blood per rectum x 1 day and hypotension.
   .
   Gastrointestinal Bleeding:  Story consistent with a lower gastroinestal
   source.  Differential includes diverticular bleed vs. post-polypectomy
   vs. AVM vs. other source.  Most likely etiology related to
   post-polypectomy bleed.  Transferred to MICU with cont GI bleed and
   transient hypotensive episode to 90
s.  Since ICU transfer HD stable
   but with continued blood stool.  Given a total of 6 units PRBCs. GI
   consulted, colonoscopy performed, noted to have pulsatile bleeding
   lesion from biopsy site.  Clipped with good hemostasis.
   - advance diet
   - holding antihypertensive agents; these can be restarted later this
   admission or on discharge
   - if has rebleed or unable to control bleeding with IR, will consider
   pursuing red cell scan vs. IR angio and embolization.
   .
   Hypotension:  Likely from acute blood loss.  Drop from baseline of 40
   to 30.4 got a total of 6 units with HCT today of 38.7.  Stable since
   procedure yesterday.
   - transfusion goal > 30
   - IVFs as needed for MAPs > 65, UOP > 30 cc/hr
   .
   Hypercholesterolemia:
   - continue statin
   .
   History of TIAs:
   - holding aspirin and plavix, likely for a period of two weeks given
   recent bleed
   .
   Tobacco Use:
   - counseling
   - nicotine patch
   .
   FEN: advance to clears, IVFs as needed for MAPs > 65, UOP > 30 cc/hr,
   monitor electrolytes
   Prophylaxis: PPI, no heparin SQ, pneumoboots
   Access: Peripherals
   Code Status: Full Code
   Emergency Contact: Wife [**Name (NI) 1534**] [**Name (NI) 1277**] Phone: [**Telephone/Fax (1) 5619**]
   Disposition: ICU for now, may go to floor if remains stable today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2158-3-22**] 03:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2158-03-24 07:50:00 Physician Resident Progress Note
Chief Complaint: GI bleed
   24 Hour Events:
   - Patient was called out to floor in early morning; however, did not
   receive an inpatient bed and remained in the ICU
   - HCT trend throughout the day was 38.7 -> 39.4 -> 42.4 without
   intervention. He was hemodynamically stable.
   - Had trouble sleeping and received zolpidem 5 mg
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-24**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 66 (47 - 91) bpm
   BP: 120/70(81) {114/58(73) - 163/79(98)} mmHg
   RR: 12 (8 - 16) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,466 mL
                                                                     50 mL
   PO:
                                                                  1,350 mL
                                                                     50 mL
   TF:
   IVF:
                                                                     82 mL
   Blood products:
                                                                     34 mL
   Total out:
                                                                  2,500 mL
                                                                    950 mL
   Urine:
                                                                  2,500 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,034 mL
                                                                   -900 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General: Pleasant, well appearing man in NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple
   Cardiac: Regular rhythm, normal rate. Normal S1, S2. Systolic murmur at
   LUSB and at apex, no rubs or [**Last Name (un) 4808**].
   Lungs: CTAB, good air movement biaterally.
   Abdomen: NABS. Soft, mild tender diffusely. No HSM, no rebound, no
   guarding.
   Extremities: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   Skin: No rashes/lesions, ecchymoses.
   Neurologic: A&Ox3. Appropriate. CN 2-12 grossly intact. 5/5 strength
   throughout. [**12-16**]+ reflexes, equal BL. Normal coordination. Gait
   assessment deferred
   Psych: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   241 K/uL
   14.6 g/dL
   105 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.2 mEq/L
   12 mg/dL
   106 mEq/L
   138 mEq/L
   40.7 %
   9.8 K/uL
        [image002.jpg]
                             [**2158-3-22**]  03:44 AM
                             [**2158-3-22**]  04:56 PM
                             [**2158-3-23**]  02:25 AM
                             [**2158-3-23**]  09:55 AM
                             [**2158-3-23**]  05:42 PM
                             [**2158-3-24**]  04:25 AM
   WBC
   7.9
   9.6
   9.8
   Hct
   30.0
   24.3
   38.7
   39.4
   42.4
   40.7
   Plt
   364
   216
   241
   Cr
   0.9
   0.8
   0.9
   Glucose
   129
   94
   105
   Other labs: PT / PTT / INR:12.6/25.4/1.1, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1277**] is a 57 y/o male with a history a mitral valve fibroelastoma
   and recent screening colonoscopy on [**2158-3-7**] with polypectomy who
   presents with bright red blood per rectum x 1 day and hypotension.
   Gastrointestinal Bleeding:  Story consistent with a lower gastroinestal
   source.  Differential includes diverticular bleed vs. post-polypectomy
   vs. AVM vs. other source.  Most likely etiology related to
   post-polypectomy bleed.  Transferred to MICU with cont GI bleed and
   transient hypotensive episode to 90
s.  Since ICU transfer HD stable
   but with continued blood stool.  Given a total of 6 units PRBCs. GI
   consulted, colonoscopy performed, noted to have pulsatile bleeding
   lesion from biopsy site.  Clipped with good hemostasis.
   - advance diet
   - holding antihypertensive agents; these can be restarted later this
   admission or on discharge
   - if has rebleed or unable to control bleeding with IR, will consider
   pursuing red cell scan vs. IR angio and embolization.
   Hypotension:  Likely from acute blood loss.  Drop from baseline of 40
   to 30.4 got a total of 6 units with HCT today of 38.7.  Stable since
   procedure yesterday.
   - transfusion goal > 30
   - IVFs as needed for MAPs > 65, UOP > 30 cc/hr
   Hypercholesterolemia:
   - continue statin
   History of TIAs:
   - holding aspirin and plavix, likely for a period of two weeks given
   recent bleed
   Tobacco Use:
   - counseling
   - nicotine patch
   ICU Care
   Nutrition: advance to clears, IVFs as needed for MAPs > 65, UOP > 30
   cc/hr, monitor electrolytes
   Glycemic Control:
   Lines:
   18 Gauge - [**2158-3-22**] 03:39 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   Communication:  Wife [**Name (NI) 1534**] [**Name (NI) 1277**] Phone: [**Telephone/Fax (1) 5619**]
   Code status: Full Code
   Disposition: Possible discharge to home today from ICU